US04517184
46.6 g (0.35 mol) of aluminum chloride are added portionwise within 25 minutes at 5° to 10° C., with stirring, to a solution of 31.2 g (0.15 mol) of 5-methyl-1,3-benzodioxole-2-carboxylic acid ethyl ester and 54.7 g (0.18 mol) of 4-(dipropylsulfamoyl)-benzoyl chloride in 350 ml of 1,2-dichloroethane. The reaction mixture is then stirred for a further 90 minutes at 5°-10° C. and for 30 minutes at room temperature, after which time all the aluminum chloride has been dissolved. After standing for about 24 hours at room temperature, the reaction mixture is poured into about 2 kg of an ice/water mixture. The organic phase is separated; it is subsequently washed once with 2N hydrochloric acid, twice with water, once with 1N sodium bicarbonate solution and again twice with water; it is afterwards dried over sodium sulfate and concentrated by evaporation in vacuo. The 5-[4-(dipropylsulfamoyl)-benzoyl]-6-methyl- 1,3-benzodioxole-2-carboxylic acid ethyl ester obtained as residue melts at 97°-99° C. after recrystallisation.

reactant | aluminum chloride | 0.35 mol, 46.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 5-methyl-1,3-benzodioxole-2-carboxylic acid ethyl ester | 0.15 mol, 31.2 g | C(C)OC(=O)C1OC2=C(O1)C=CC(=C2)C | C11H12O4
reactant | 4-(dipropylsulfamoyl)-benzoyl chloride | 0.18 mol, 54.7 g | C(CC)N(S(=O)(=O)C1=CC=C(C(=O)Cl)C=C1)CCC | C13H18ClNO3S
solvent | 1,2-dichloroethane | 350 ml | ClCCCl | C2H4Cl2
product | 5-[4-(dipropylsulfamoyl)-benzoyl]-6-methyl- 1,3-benzodioxole-2-carboxylic acid ethyl ester | C(C)OC(=O)C1OC2=C(O1)C=C(C(=C2)C(C2=CC=C(C=C2)S(N(CCC)CCC)(=O)=O)=O)C | C24H29NO7S
